US05312823
d) 5,7-Dihydro-6H-pyrrolo[3,4-b]pyridine dihydrochloride
8.5 g (44 mmol) of ethyl 5,7-dihydro-1H-pyrrolo-[3,4-b]pyridine-6-carboxylate are refluxed overnight in 90 ml of concentrated hydrochloric acid. The solution is concentrated, the residue is stirred with acetone, and the salt is filtered off with suction and dried in the air.

reactant | ethyl 5,7-dihydro-1H-pyrrolo-[3,4-b]pyridine-6-carboxylate | 44 mmol, 8.5 g | N1C2=C(C=CC1)CN(C2)C(=O)OCC | C10H14N2O2
reactant | hydrochloric acid | 90 ml | Cl | ClH
product | 5,7-Dihydro-6H-pyrrolo[3,4-b]pyridine dihydrochloride | Cl.Cl.N1=C2C(=CC=C1)CNC2 | InChI=1S/C7H8N2.2ClH/c1-2-6-4-8-5-7(6)9-3-1;;/h1-3,8H,4-5H2;2*1H
